US04481360
4-(5-Methyl-4-phenyl-4H-1,2,4-triazol-3-yl)-1-(2-phenylethyl)-4-piperidinol
To a solution of 1.6 g of 3-methyl-4-phenyl-4H-1,2,4-triazole (10 mmol) in 15 ml of THF at -78° C. is added 7.0 ml of n-butyllithium (1.6N in hexane). The mixture is stirred for 50 minutes before a solution of 2.44 g of N-(2-phenylethyl)-4-piperidinone in 12 ml of THF is charged into the flask. After stirring for 30 minutes at -78° C. and then 1 hour at -20° C. the mixture is poured into cold water and is extracted three times with chloroform. The combined chloroform extracts are washed twice with water, brine, dried over sodium sulfate and concentrated in vacuo to yield an amber oil.

reactant | 3-methyl-4-phenyl-4H-1,2,4-triazole | 10 mmol, 1.6 g | CC1=NN=CN1C1=CC=CC=C1 | C9H9N3
reactant | n-butyllithium | 1.6N, 7.0 ml | C(CCC)[Li]
reactant | N-(2-phenylethyl)-4-piperidinone | 2.44 g | C1(=CC=CC=C1)CCN1CCC(CC1)=O | C13H17NO
reactant | water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 12 ml | C1CCOC1 | C4H8O
product | 4-(5-Methyl-4-phenyl-4H-1,2,4-triazol-3-yl)-1-(2-phenylethyl)-4-piperidinol | CC=1N(C(=NN1)C1(CCN(CC1)CCC1=CC=CC=C1)O)C1=CC=CC=C1 | C22H26N4O
